************************************************************
* Auto-generated from MiniTNtk
* source subckt  : CLASS_IDX_11
* class idx      : 11
* truth table    : 10011000
* diff           : -2
* Pin order fixed to: A B C VDD VSS Z
* Device models/params rewritten to ASAP7-style unified form
************************************************************
.SUBCKT THREEINPUT_MINITNTK_TT10011000 A B C VDD VSS Z
M0 Z !a pN2 VDD pmos_rvt w=46.0n l=16n nfin=2
M1 pN1 C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M2 pN3 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M3 Z B pN1 VDD pmos_rvt w=46.0n l=16n nfin=2
M4 pN2 !b pN3 VDD pmos_rvt w=46.0n l=16n nfin=2
M5 !a C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M6 !b B VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M7 !b B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M8 Z C nN1 VSS nmos_rvt w=46.0n l=16n nfin=2
M9 nN1 A VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M10 nN2 !a VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M11 nN1 !b VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M12 !a C VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M13 Z B nN2 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
